US06313311B1
4-(3-Ethoxy-6-methoxy-4,5-dimethylindan-1-yl)-1H-imidazole (cis-isomer)
3-(1H-imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-ol (cis-isomer, 0.1 g) is dissolved in the mixture of ethanol (20 ml) and concentrated hydrochloric acid (2 ml). The solution is stirred at 25° C. for one hour. Work-up of the reaction mixture gives the crude product, which is purified by flash chromatography using methylene chloride-methanol as eluent.

reactant | 3-(1H-imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-ol | 0.1 g | N1C=NC(=C1)C1CC(C2=C(C(=C(C=C12)OC)C)C)O | C15H18N2O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2 ml | Cl | ClH
product | 4-(3-Ethoxy-6-methoxy-4,5-dimethylindan-1-yl)-1H-imidazole | C(C)OC1CC(C2=CC(=C(C(=C12)C)C)OC)C=1N=CNC1 | C17H22N2O2
